US06353017B1
A solution of N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-L-cysteinamide (0.72 g, 1.51 mmol), methyl 3-(bromomethyl)-benzoate (0.35 g, 1.51 mmol), and diisopropylethylamine (0.27 mL, 1.53 mmol) is stirred at room temperature overnight. Solvent is evaporated, and the residue is treated with 1 N HCl (50 mL), and filtered to collect a white solid, which is washed with water and Et2O (100 mL each). Drying in vacuo yields N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-S-[[3-(methoxycarbonyl)phenyl]methyl]-L-cysteinamide, as a white solid.

reactant | N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-L-cysteinamide | 1.51 mmol, 0.72 g | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NC([C@@H](N)CS)=O)C=CC1 | C27H29N3O3S
reactant | methyl 3-(bromomethyl)-benzoate | 1.51 mmol, 0.35 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | diisopropylethylamine | 1.53 mmol, 0.27 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-S-[[3-(methoxycarbonyl)phenyl]methyl]-L-cysteinamide | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NC([C@@H](N)CSCC2=CC(=CC=C2)C(=O)OC)=O)C=CC1 | C36H37N3O5S
